US04435390
10.0 g of 11β,17,21-trihydroxy-1,4-pregnadiene-3,20-dione is reacted analogously to Example 2(a) with ethoxyacetic acid chloride, worked up, and purified, thus isolating 10.4 g of 21-ethoxyacetoxy-11β,17-dihydroxy-1,4-pregnadiene-3,20-dione.

reactant | 11β,17,21-trihydroxy-1,4-pregnadiene-3,20-dione | 10.0 g | O[C@@H]1[C@@H]2[C@]3(C=CC(C=C3CC[C@H]2[C@@H]2CC[C@](C(CO)=O)([C@]2(C1)C)O)=O)C | C21H28O5
reactant | ethoxyacetic acid chloride | C(C)OCC(=O)Cl | C4H7ClO2
product | 21-ethoxyacetoxy-11β,17-dihydroxy-1,4-pregnadiene-3,20-dione | 10.4 g | C(C)OCC(=O)OCC([C@]1(CC[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)O)=O | C25H34O7
